US07078369B2
Methyl 2-[(tert-butylamino)sulfonyl]-6-(isopropylamino)benzoate
At a temperature of 5-10° C., 925 mg (24.4 mmol) of sodium borohydride are stirred into 14 ml of acetic acid. After 1 h, this mixture is admixed first with 1.42 g (24.4 mmol) of acetone and then with 700 mg (2.44 mmol) of methyl 2-amino-6-[(tert-butylamino)sulfonyl]benzoate and stirred at 5-10° C. for 2.5 h. For work-up, the reaction mixture is poured into ice-water, neutralized with aqueous ammonia solution and extracted with dichloromethane. The organic phase is concentrated and the residue that remains is triturated with diisopropyl ether. After filtration with suction and drying, 700 mg (89% of theory) of methyl 2-[(tert-butylamino)sulfonyl]-6-(isopropylamino)benzoate remain as a white solid of m.p. 110-112° C.

reactant | sodium borohydride | 24.4 mmol, 925 mg | [BH4-].[Na+]
reactant | acetone | 24.4 mmol, 1.42 g | CC(=O)C | C3H6O
reactant | methyl 2-amino-6-[(tert-butylamino)sulfonyl]benzoate | 2.44 mmol, 700 mg | NC1=C(C(=O)OC)C(=CC=C1)S(=O)(=O)NC(C)(C)C | C12H18N2O4S
reactant | ammonia | N | H3N
solvent | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
product | Methyl 2-[(tert-butylamino)sulfonyl]-6-(isopropylamino)benzoate | C(C)(C)(C)NS(=O)(=O)C1=C(C(=O)OC)C(=CC=C1)NC(C)C | C15H24N2O4S
